* [Disclaimer] (C) Copyright Texas Instruments Incorporated 2004 All rights reserved 
* Texas Instruments Incorporated hereby grants the user of this SPICE Macro-model a 
* non-exclusive, nontransferable license to use this SPICE Macro-model under the following 
* terms. Before using this SPICE Macro-model, the user should read this license. If the 
* user does not accept these terms, the SPICE Macro-model should be returned to Texas 
* Instruments within 30 days. The user is granted this license only to use the SPICE 
* Macro-model and is not granted rights to sell, load, rent, lease or license the SPICE 
* Macro-model in whole or in part, or in modified form to anyone other than user. User may 
* modify the SPICE Macro-model to suit its specific applications but rights to derivative 
* works and such modifications shall belong to Texas Instruments. This SPICE Macro-model is 
* provided on an "AS IS" basis and Texas Instruments makes absolutely no warranty with 
* respect to the information contained herein. TEXAS INSTRUMENTS DISCLAIMS AND CUSTOMER 
* WAIVES ALL WARRANTIES, EXPRESS OR IMPLIED, INCLUDING WARRANTIES OF MERCHANTABILITY OR 
* FITNESS FOR A PARTICULAR PURPOSE. The entire risk as to quality and performance is with 
* the Customer. ACCORDINGLY, IN NO EVENT SHALL THE COMPANY BE LIABLE FOR ANY DAMAGES, 
* WHETHER IN CONTRACT OR TORT,INCLUDING ANY LOST PROFITS OR OTHER INCIDENTAL, CONSEQUENTIAL,
* EXEMPLARY, OR PUNITIVE DAMAGES ARISING OUT OF THE USE OR APPLICATION OF THE SPICE 
* Macro-model provided in this package. Further, Texas Instruments reserves the right to 
* discontinue or make changes without notice to any product herein to improve reliability, 
* function, or design. Texas Instruments does not convey any license under patent rights or 
* any other intellectual property rights, including those of third parties.
*  
* THS4304 SUBCIRCUIT Rev-
* HIGH SPEED VOLTAGE FEEDBACK AMPLIFIER  
* WRITTEN 8/1/04
* THIS MODEL SIMULATES TYPICAL VALUES FOR THE FOLLOWING:
* BANDWIDTH IN NOISE GAINS OF 2V/V OR MORE, SLEW RATE, SETTLING TIME, OUTPUT VOLTAGE LIMIT,  
* INPUT VOLTAGE NOISE, INPUT BIAS CURRENT, INPUT OFFSET VOLTAGE, INPUT OFFSET CURRENT, OUTPUT LOADING EFFECTS
* CMRR AND PSRR SHOW THE SAME TREND AS MEASURED DATA, BUT ARE NOT ACCURATE OVER FREQUENCY
* THIS MODEL WILL NOT PROVIDE ACCURATE SIMULATION OF:
* OUTPUT IMPEDANCE, INPUT CURRENT NOISE, DISTORTION, INPUT OFFSET vs INPUT COMMON-MODE VOLTAGE
* UNITY GAIN BANDWIDTH OF THIS MODEL IS LOWER THAN ACTUAL PART. IT IS IMPROVED BY ADDING 2nH INDUCTOR IN FEEDBACK (2.39 GHz vs 3GHz ACTUAL)
* CONNECTIONS:      	NON-INVERTING INPUT
*  		    	| INVERTING INPUT
*     		   	|  | POSITIVE POWER SUPPLY
*      		    	|  |  | NEGATIVE POWER SUPPLY
*             	    	|  |  |  |  OUTPUT
*		
.SUBCKT THS4304     IN+ IN-  Vs+ Vs- OUT
*
*INPUT*
Q1         04 114 011 NPN_IN  10
Q2         05 IN- 012 NPN_IN  10
R1         021 011  75  
R2         021 012  75  
I1         021 022 DC 1.6m  
I2         06 01 DC 1.6m  
V1         022 Vs- 1.6
C1         0 IN+  1.5p  
Q3         013 114 02 PNP_IN  10
Q4         014 IN- 03 PNP_IN  10
R3         02 01  75  
R4         03 01  75  
V2         Vs+ 06 1.6
C2         0 IN-  1.5p  

* OFFSET AND BIAS CURRENT*
Vio IN+ 114 500u
IBIAS+	0 IN+ 7.25u
IBIAS-	0 IN- 6.75u

*Z NODE*
Q5         07 07 04 PNP  5
Q6         08 07 05 PNP  5
R5         04 Vs+  75 
R6         05 Vs+  75  
I3         07 023 DC 0.8m  
V3         023 Vs- 3.8
C5         08 Vs+  1.1p  
C4         Vs- 08   1.1p  
R13         08 Vs+  400k  
Q7         015 015 013 NPN  5
Q8         08 015 014 NPN  5
R7         Vs- 013  75  
R8         Vs- 014  75  
I4         024 015 DC 0.8m  
V4         Vs+ 024 3.8
R14         Vs- 08  400k  

*VOLTAGE LIMIT*
Q16         08 08 28 NPN  5
V16         Vs+ 28   1.75 
Q18         08 08 38 PNP  5
V18         38 Vs-   1.75  

*FREQUENCY SHAPING* 
E1         09 0 08 0 1
L1         09 010  1.5n  
R15         010 016  25  
C3         0 016  3.5p  

*OUTPUT BUFFER*
Q9         Vs- 016 017 PNP  5
R9         025 Vs+  125  
I5         025 017 DC 2m  
Q11         Vs+ 017 019 NPN  100
R11         OUT 019  4  
Q10         Vs+ 016 018 NPN  5
R10         Vs- 026  125  
I6         018 026 DC 2m  
Q12         Vs- 018 020 PNP  100
R12         020 OUT  4  

.MODEL NPN_IN NPN KF=1E-12
.MODEL PNP_IN PNP KF=1E-12
.MODEL NPN NPN
.MODEL PNP PNP
.ENDS ths4304
*$